US04824834
2,4-Dihydroxy-8-(2-fluoro-5-methyl-4-methylthiophenyl)pyrazolo[1,5-a]-1,3,5-triazine
3-Amino-4-(2-fluoro-5-methyl-4-methylthiophenyl)pyrazole (2.74 g) is dissolved in pyridine (20 ml) and the mixture is cooled to 0° C. To the mixture is added N-(chlorocarbonyl)isocyanate (1.03 ml), and the mixture is stirred at room temperature for 4 hours. The reaction mixture is acidified by adding thereto 10% hydrochloric acid under ice cooling. The resulting precipitate is separated by filtration, washed with water and dried to give the title compound (3.4 g).

reactant | 3-Amino-4-(2-fluoro-5-methyl-4-methylthiophenyl)pyrazole | 2.74 g | NC1=NNC=C1C1=C(SC(=C1C)C)F | C9H10FN3S
reactant | N-(chlorocarbonyl)isocyanate | 1.03 ml | C(=NC(=O)Cl)=O | C2ClNO2
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2,4-Dihydroxy-8-(2-fluoro-5-methyl-4-methylthiophenyl)pyrazolo[1,5-a]-1,3,5-triazine | 3.4 g | OC1=NC=2N(C(=N1)O)N=CC2C2=C(SC(=C2C)C)F | C11H9FN4O2S
